US08193351B2
Step 7: 2-Chloro-5-(2-hydroxyethyl)-4-hydroxymethylbenzonitrile
Calcium chloride (0.33 g, 3 mmol) and sodium borohydride (0.23 g, 6 mmol) were added to a mixture (0.80 g, 3 mmol) of methyl 2-methoxycarbonylmethyl-4-cyano-5-chlorobenzoate and methyl 2-methoxycarbonylmethyl-4-cyano-3-chlorobenzoate in a mixed solution (1:1, 10 mL) of ethanol and tetrahydrofuran. The resulting mixture was stirred at room temperature overnight. Water was added to the reaction solution, and extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate, and concentrated under reduced pressure to give a 0.6:1 mixture (0.57 g, 89%) of the title compound and 2-chloro-3-(2-hydroxyethyl)-4-hydroxymethylbenzonitrile.

reactant | Calcium chloride | 3 mmol, 0.33 g | [Cl-].[Ca+2].[Cl-]
reactant | sodium borohydride | 6 mmol, 0.23 g | [BH4-].[Na+]
reactant | methyl 2-methoxycarbonylmethyl-4-cyano-5-chlorobenzoate | 3 mmol, 0.80 g | COC(=O)CC1=C(C(=O)OC)C=C(C(=C1)C#N)Cl | C12H10ClNO4
reactant | methyl 2-methoxycarbonylmethyl-4-cyano-3-chlorobenzoate | COC(=O)CC1=C(C(=O)OC)C=CC(=C1Cl)C#N | C12H10ClNO4
solvent | Water | O | H2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 2-Chloro-5-(2-hydroxyethyl)-4-hydroxymethylbenzonitrile | 0.57 g, 89% | ClC1=C(C#N)C=C(C(=C1)CO)CCO | C10H10ClNO2
